US04476311
PREPARATION OF 1-N-BENZYL-4-CARBOXY-5-PHENYL-PYRROLIDIN-2-ONE
Benzylidene-benzylamine [145.5 gm., 0.75 mole] and succinic anhydride [74.5 gm., 0.745 mole] were refluxed with o-xylene [750 ml.] for 12 hours. The solid, formed upon cooling to room temperature, was filtered, washed with ethanol and air dried. The solid was recrystallized from ethanol to give white needles of the title compound [76.0 gm., 34% yield]. After drying under vacuum and over boiling xylene the solid had a melting point of 169°-171° C.

reactant | Benzylidene-benzylamine | 0.75 mole, 145.5 gm | C(C1=CC=CC=C1)=NCC1=CC=CC=C1 | C14H13N
reactant | succinic anhydride | 0.745 mole, 74.5 gm | C1(CCC(=O)O1)=O | C4H4O3
solvent | o-xylene | 750 ml | CC=1C=CC=CC1C | C8H10
product | 1-N-BENZYL-4-CARBOXY-5-PHENYL-PYRROLIDIN-2-ONE | 76.0 gm, 34% yield | C(C1=CC=CC=C1)N1C(CC(C1C1=CC=CC=C1)C(=O)O)=O | C18H17NO3
